US08252784B2
20.2: 3-[1,3]-Dioxolan-2-yl-propylamine
50.1 g (1.32 mol) of lithium aluminium hydride are suspended in 500 ml of ether. Added dropwise to this suspension is a solution of 111.9 g (0.88 mol) of 3-[1,3]-dioxolan-2-yl-propionitrile. The mixture is subsequently heated at reflux for 2.5 hours. After cooling, 50 g of water, 50 g of 10% strength sodium hydroxide solution and a further 150 g of water are added. The mixture is then filtered and the filtrate is dried over calcium chloride and concentrated. The orange oil obtained is subsequently distilled under reduced pressure (overhead temperature=46° C., p=0.016 mbar). This gives 68.4 g of 3-[1,3]-dioxolan-2-yl-propylamine.

reactant | lithium aluminium hydride | 1.32 mol, 50.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-[1,3]-dioxolan-2-yl-propionitrile | 0.88 mol, 111.9 g | O1C(OCC1)CCC#N | C6H9NO2
reactant | water | 50 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 150 g | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 3-[1,3]-Dioxolan-2-yl-propylamine | O1C(OCC1)CCCN | C6H13NO2
